US07144908B2
i) 1-Benzyl-3-(3-iodophenyl)imidazolidine-2,4-dione
A solution of 3-(3-iodophenyl)imidazolidine-2,4-dione (1.7 g) in DMF (20 ml) was treated with sodium hydride (60% oil dispersion, 280 mg) and benzylchloride (1.93 ml) at 20° C. After 2 h the reaction mixture was treated with aqueous 2M HCl, extracted with EtOAc and dried (MgSO4). The solvent was removed under reduced pressure and the residue was purified by chromatography on Biotage (40 g) eluting with petroleum ether-EtOAc (9:1 to 3:2) to give the title compound (1.38 g). LCMS RT=3.27 min.

reactant | 3-(3-iodophenyl)imidazolidine-2,4-dione | 1.7 g | IC=1C=C(C=CC1)N1C(NCC1=O)=O | C9H7IN2O2
reactant | sodium hydride | 280 mg | [H-].[Na+]
reactant | benzylchloride | 1.93 ml | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | HCl | 2M | Cl | ClH
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 1-Benzyl-3-(3-iodophenyl)imidazolidine-2,4-dione | 1.38 g | C(C1=CC=CC=C1)N1C(N(C(C1)=O)C1=CC(=CC=C1)I)=O | C16H13IN2O2
